US04882085
25 g of 4'-methoxybiphenyl-4-carboxylic acid, 1 liter of acetic acid and 200 ml of 48% hydrobromic acid were refluxed for 12-14 hours and then the mixture was thrown into 2.5 liter of water. After cooling, the crystals were collected to obtain 4-hydroxybiphenylcarboxylic acid with a melting point of 288°-291° C. and at a yield of 90-95%.

reactant | 4'-methoxybiphenyl-4-carboxylic acid | 25 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C14H12O3
reactant | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 200 ml | Br | BrH
solvent | water | 2.5 liter | O | H2O
product | 4-hydroxybiphenylcarboxylic acid | yield of 90-95% | OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C13H10O3
